US06316436B1
Preparation of 4-(5-{3-[3-ethyl-3-(3-hydroxy-phenyl)-azepan-1-yl]-3-oxo-propyl}-imidazol-1-ylmethyl)-2-fluoro-benzonitrile
3-[3-(4-Cyano-3-fluoro-benzyl)-3H-imidazol-4-yl]-propionic acid, as described above in Step E, (0.56 g, 0.78 mmol) and 3-(3-ethyl-azepan-3-yl)-phenol, as described above in Step J, (0.182 g, 0.78 mmol), HOBT (0.126 g, 0.936 mmol), EDC (0.179 g, 0.936 mmol) and N-methylmorpholine (0.257 mL, 2.34 mmol) were dissolved in DMF (15 mL) and stirred at ambient temperature for 18 h. The DMF was removed in vacuo and the residue was partitioned between EtOAc and saturated aqueous NaHCO3 solution. The organic layer was washed with H2O, brine, dried (MgSO4), filtered, and concentrated to give the title compound.

reactant | 3-[3-(4-Cyano-3-fluoro-benzyl)-3H-imidazol-4-yl]-propionic acid | C(#N)C1=C(C=C(CN2C=NC=C2CCC(=O)O)C=C1)F | C14H12FN3O2
reactant | 3-(3-ethyl-azepan-3-yl)-phenol | C(C)C1(CNCCCC1)C=1C=C(C=CC1)O | C14H21NO
reactant | HOBT | 0.78 mmol, 0.182 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.936 mmol, 0.179 g
reactant | N-methylmorpholine | 2.34 mmol, 0.257 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(5-{3-[3-ethyl-3-(3-hydroxy-phenyl)-azepan-1-yl]-3-oxo-propyl}-imidazol-1-ylmethyl)-2-fluoro-benzonitrile | C(C)C1(CN(CCCC1)C(CCC1=CN=CN1CC1=CC(=C(C#N)C=C1)F)=O)C1=CC(=CC=C1)O | C28H31FN4O2
